US06596731B2
2-(3,4-Dimethyl-phenyl)-7-methoxy-imidazo[1,2-a]pyridine
The title compound, pale yellow solid, m.p. 175° C. and MS: m/e=252.2 (M+), was prepared in accordance with the general method of example 1 from 2-amino-4-methoxy-pyridine and 3,4-dimethyl-phenacylbromide.

reactant | 2-amino-4-methoxy-pyridine | NC1=NC=CC(=C1)OC | C6H8N2O
reactant | 3,4-dimethyl-phenacylbromide | CC=1C=C(C(CBr)=O)C=CC1C | C10H11BrO
product | 2-(3,4-Dimethyl-phenyl)-7-methoxy-imidazo[1,2-a]pyridine | CC=1C=C(C=CC1C)C=1N=C2N(C=CC(=C2)OC)C1 | C16H16N2O
